US07786304B2
reacting 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-5,6-dihydropyrrolo[3,4-b]pyrazine with 1-chlorocarbonyl-4-methylpiperazine hydrochloride in an organic solvent in presence of triethyl amine along with a catalytic amount of an acylation catalyst to obtain racemic zopiclone;

reactant | 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-5,6-dihydropyrrolo[3,4-b]pyrazine | ClC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1O)=O | C11H7ClN4O2
reactant | 1-chlorocarbonyl-4-methylpiperazine hydrochloride | Cl.ClC(=O)N1CCN(CC1)C
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | zopiclone | CN1CCN(CC1)C(=O)OC2C3=C(N=CC=N3)C(=O)N2C=4C=CC(=CN4)Cl | C17H17ClN6O3
